US04826814
(2S,3aS,7aS)-1-(N6 -benzyloxycarbonyl-L-lysyl-gamma-D-glutamyloctahydro-1H-indole-2carboxylic acid was dissolved in 6 ml of water, and sodium carbonate and 10 ml of THF were added. With vigorous stirring, N-(2-methoxybenzyloxy)succinimide was added. The mixture was stirred overnight at room temperature. The reaction mixture was acidified with 10% citric acid, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The residue was chromatographed on a column of CHP20P using acetonitrile/water (30%→70% gradient) as an eluent. Fractions containing the desired product were concentrated to dryness under reduced pressure to give 1.0 g of (2S,3aS,7aS)-1-[N6 -benzyloxycarbonyl-N2 -(2-methoxybenzoyl)-L-lysyl-gamma-D-glutamyl]octahydro-1H-indole-2-carboxylic acid.

reactant | N6 -benzyloxycarbonyl-L-lysyl-gamma-D-glutamyloctahydro-1H-indole-2carboxylic acid | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)N[C@H](CCC(=O)N1C(CC2CCCCC12)C(=O)O)C(=O)O | C28H40N4O8
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-methoxybenzyloxy)succinimide | COC1=C(CON2C(CCC2=O)=O)C=CC=C1 | C12H13NO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 6 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S,3aS,7aS)-1-[N6 -benzyloxycarbonyl-N2 -(2-methoxybenzoyl)-L-lysyl-gamma-D-glutamyl]octahydro-1H-indole-2-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](NC(C1=C(C=CC=C1)OC)=O)C(=O)N[C@H](CCC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)C(=O)O)C(=O)O | C36H46N4O10
